### PR TITLE
Feat (Fujisaki): Completion of T finite

### PR DESCRIPTION
**Pull request by WilliamCoram**
Filled remaining sorry's on T finite - the file is now bit of a mess, so will need guidance on where you want all the lemmas.

Additionally, this depends on a Mathlib PR.

### CODE REVIEW

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 1]
```diff
@@ -15,6 +15,7 @@ import FLT.HaarMeasure.HaarChar.Ring
 import FLT.HaarMeasure.HaarChar.AdeleRing
 import FLT.Mathlib.Topology.Algebra.Group.Basic
 
+
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:20]: Why?

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 2]
```diff
@@ -54,6 +55,7 @@ namespace Aux
 lemma existsE : ∃ E : Set (D_𝔸), IsCompact E ∧
     ∀ φ : D_𝔸 ≃ₜ+ D_𝔸, addEquivAddHaarChar φ = 1 → ∃ e₁ ∈ E, ∃ e₂ ∈ E,
     e₁ ≠ e₂ ∧ φ e₁ - φ e₂ ∈ Set.range (Algebra.TensorProduct.includeLeft : D →ₐ[K] D_𝔸) :=
+  -- MeasureTheory.QuotientMeasureEqMeasurePreimage.haarMeasure_quotient
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:60]: Shall I just set this as a target for someone else? I don't know enough about the measure theory part of mathlib to get this over the line without a bunch of help.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 3]
```diff
@@ -118,19 +120,220 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
 def T : Set D_𝔸ˣ := ((↑) : D_𝔸ˣ → D_𝔸) ⁻¹' (Y K D) ∩ Set.range ((incl K D : Dˣ → D_𝔸ˣ))
 
--- Need something saying D ⊆ D_𝔸 is discrete
+/-- The K-algebra equivalence of D and K^n. -/
+abbrev D_iso : (D ≃ₗ[K] ((Fin (Module.finrank K D) → K))) := by
+  exact Module.Finite.equivPi K D
+
+/-- The 𝔸-algebra equivalence of D_𝔸 and 𝔸^d. -/
+def D𝔸_iso : (D_𝔸 ≃ₗ[(AdeleRing (𝓞 K) K)] ((Fin (Module.finrank K D) → AdeleRing (𝓞 K) K))) := by
+  suffices h : ((Fin (Module.finrank K D) → K) ⊗[K] AdeleRing (𝓞 K) K) ≃ₗ[(AdeleRing (𝓞 K) K)]
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: I am a bit nervous about this definition in tactic mode. Can you term-mode-ify it?

I'm also a bit concerned that you're duplicating work here. What is the abstraction? If R is a commutative ring, M is a finite free R-module of rank n and A is a commutative R-algebra then you're just writing down a special case of "M tensor A is isomorphic to A^n as A-module" in what looks to me like a very long-winded way.

File: FLT/Mathlib/LinearAlgebra/Dimension/Constructions.lean [hunk 4]
```diff
@@ -12,14 +12,14 @@ noncomputable def Module.Finite.equivPi (R M : Type*) [Ring R] [StrongRankCondit
   LinearEquiv.ofFinrankEq _ _ <| by rw [Module.finrank_pi, Fintype.card_fin]
 
 noncomputable abbrev TensorProduct.AlgebraTensorModule.finiteEquivPi (R M N : Type*) [CommRing R]
-    [CommSemiring N] [CommRing M] [Algebra R N] [Module R M] [Module.Free R M] [Module.Finite R M]
+    [CommSemiring N] [Ring M] [Algebra R N] [Module R M] [Module.Free R M] [Module.Finite R M]
```
Comment (kbuzzard) [inline FLT/Mathlib/LinearAlgebra/Dimension/Constructions.lean:15]: Wait -- if we have this then why is `D𝔸_iso` so complicated?

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 5]
```diff
@@ -118,19 +120,220 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+
+/-- The inclusion of K^n into 𝔸^n. -/
+abbrev incl_Kn_𝔸Kn : (Fin (Module.finrank K D) → K) → (Fin (Module.finrank K D) → AdeleRing (𝓞 K) K)
+    := fun x i ↦ algebraMap K (AdeleRing (𝓞 K) K) (x i)
+
+omit [FiniteDimensional K D] [MeasurableSpace (D ⊗[K] AdeleRing (𝓞 K) K)]
+  [BorelSpace (D ⊗[K] AdeleRing (𝓞 K) K)] in
+theorem Kn_discrete : ∀ x : (Fin (Module.finrank K D) → K),
+    ∃ U : Set (Fin (Module.finrank K D) → AdeleRing (𝓞 K) K),
+    IsOpen U ∧ (incl_Kn_𝔸Kn K D)⁻¹' U = {x} := by
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean:152]: This looks like a general case of a lemma of the form "if X is discrete in Y then X^n is discrete in Y^n" which should probably be proved in the right generality.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 6]
```diff
@@ -118,19 +120,220 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+    exact (TensorProduct.RightActions.Module.TensorProduct.comm _ _ _).symm
+  exact h2.trans h1
+
+local instance : IsModuleTopology (AdeleRing (𝓞 K) K)
+    ((Fin (Module.finrank K D) → AdeleRing (𝓞 K) K)) := by
+  --have := IsModuleTopology.instPi (R := AdeleRing (𝓞 K) K) (ι := Fin (Module.finrank K D))
+  --  (A := Fin (Module.finrank K D) → AdeleRing (𝓞 K) K)
+
+    -- no idea how to get this to work
+  sorry
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: This looks to me like a diamond in FLT. Right now it is unclear to me how to fix this but I'm actively thinking about it.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 7]
```diff
@@ -118,19 +120,220 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+      aesop
+    · intro eq i
+      refine Set.mem_preimage.mp ?_
+      aesop
+
+-- this can definitely be golfed (and extracted for smaller lemmas)
+omit [MeasurableSpace (D ⊗[K] AdeleRing (𝓞 K) K)] [BorelSpace (D ⊗[K] AdeleRing (𝓞 K) K)] in
+theorem D_discrete : ∀ x : D, ∃ U : Set D_𝔸,
+    IsOpen U ∧ (Algebra.TensorProduct.includeLeft : D →ₐ[K] D_𝔸) ⁻¹' U = {x} := by
+  intro t
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: This looks like it's a special case of "if X -> Y and if Y is homeo to Y' then X is discrete in Y iff it's discrete in Y'"

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 8]
```diff
@@ -118,19 +120,220 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+    · intro hy
+      rw [← h2, h1] at hy
+      exact hy
+    · intro eq
+      simp_rw [eq, ← h2, h1]
+      rfl
+
+/-- The addsubgroud with carrier Set.range (Algebra.TensorProduct.includeLeft : D →ₐ[K] D_𝔸). -/
+abbrev includeLeft_addsub : AddSubgroup D_𝔸 :=
+  { carrier := Set.range (Algebra.TensorProduct.includeLeft : D →ₐ[K] D_𝔸),
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: This is surely in mathlib, this is just AddMonoidHom.range or something

File: FLT/Mathlib/LinearAlgebra/Dimension/Constructions.lean (hunk 4 above)
Comment (WilliamCoram) [reply FLT/Mathlib/LinearAlgebra/Dimension/Constructions.lean:15]: Ah yes. I found this only after looking for the end, not realising it made half the proof pointless.

Comment (WilliamCoram) [reply FLT/Mathlib/LinearAlgebra/Dimension/Constructions.lean:15]: I have shortened ``D\A_iso`` now.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 3 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: As you pointed out, it has now been sorted.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 1 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean:20]: I think I deleted an import and then clicked enter as a force of habit. This probably happens in a lot of my PRs.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 5 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean:152]: I'll think about generalising this.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 7 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: Ill have a think about this - it would be nice if that was a suitable generalisation, as my proof was not very nice

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 8 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: I'll try that - lean was not inferring anything, so I decided to just prove it myself as it was not hard.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 5 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean:152]: This has been generalised to (hopefully) the correct level

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 7 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: I believe I have generalised this now.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 8 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: I have tweaked this, let me know if this looks better

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 6 above)
Comment (kbuzzard) [reply FLT/DivisionAlgebra/Finiteness.lean]: See [#mathlib4 > product of modules over product of rings @ 💬](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/product.20of.20modules.20over.20product.20of.20rings/near/537474442) for my suggested fix. If that PR gets merged then typeclass inference can just find this instance automatically.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 9]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+  ((TensorProduct.RightActions.Module.TensorProduct.comm _ _ _).symm).trans
+    (TensorProduct.AlgebraTensorModule.finiteEquivPi (R := K) (M := D) (N := AdeleRing (𝓞 K) K))
+
+local instance : IsModuleTopology (AdeleRing (𝓞 K) K)
+    ((Fin (Module.finrank K D) → AdeleRing (𝓞 K) K)) := by
+  --have := IsModuleTopology.instPi (R := AdeleRing (𝓞 K) K) (ι := Fin (Module.finrank K D))
+  --  (A := Fin (Module.finrank K D) → AdeleRing (𝓞 K) K)
+
+    -- no idea how to get this to work
+  sorry
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
  sorry -- can be solved by typeclass inference if Mathlib#29315 is merged.
```

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 10]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
 
-lemma T_finite : Set.Finite (T K D) := by
-  have h : Set.Finite ((Y K D) ∩ (Set.range (Algebra.TensorProduct.includeLeft : D →ₐ[K] D_𝔸)))
-      := by
-    apply IsCompact.finite
-    · refine IsCompact.inter_right (Y_compact K D) ?_
+/-- The 𝔸-algebra equivalence of D_𝔸 and 𝔸^d. -/
+abbrev D𝔸_iso : (D_𝔸 ≃ₗ[(AdeleRing (𝓞 K) K)] ((Fin (Module.finrank K D) → AdeleRing (𝓞 K) K))) :=
+  ((TensorProduct.RightActions.Module.TensorProduct.comm _ _ _).symm).trans
+    (TensorProduct.AlgebraTensorModule.finiteEquivPi (R := K) (M := D) (N := AdeleRing (𝓞 K) K))
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
    (TensorProduct.AlgebraTensorModule.finiteEquivPi K D (AdeleRing (𝓞 K) K))
```
These are just regular inputs, you don't need the `(R := ...)` idiom.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 11]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+  --have := IsModuleTopology.instPi (R := AdeleRing (𝓞 K) K) (ι := Fin (Module.finrank K D))
+  --  (A := Fin (Module.finrank K D) → AdeleRing (𝓞 K) K)
+
+    -- no idea how to get this to work
+  sorry
 
-      -- Subgroup.isClosed_of_discrete
-      sorry
-    · -- follows form D being discrete
+/-- The topoligical equivalence via D𝔸_iso. -/
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
/-- The topological equivalence via D𝔸_iso. -/
```

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 12]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+/-- The inclusion of K^n into 𝔸^n. -/
+abbrev incl_Kn_𝔸Kn : (Fin (Module.finrank K D) → K) →
+    (Fin (Module.finrank K D) → AdeleRing (𝓞 K) K) :=
+  fun x i ↦ algebraMap K (AdeleRing (𝓞 K) K) (x i)
+
+theorem DiscreteXinY_to_DiscreteXninYn {X Y : Type*} [TopologicalSpace Y] (f : X → Y) (n : ℕ) :
+    (∀ x : X, ∃ U : Set Y, IsOpen U ∧  f⁻¹' U = {x}) →
+    (∀ x' : Fin n → X, ∃ U' : Set (Fin n → Y), IsOpen U' ∧
+    (fun (t : Fin n → X) (i : Fin n) ↦ f (t i))⁻¹' U' = {x'}) := by
+  intro h x'
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: In mathlib one would not usually do this -- just name the hypothesis `h` and put it before the colon, i.e. change the statement so that the `intro` is done for you. Same with `x'`.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 13]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+  have h (i : Fin n) := h (x' i)
+  use Set.pi (Set.univ) (fun (i : Fin n) => Classical.choose (h i))
+  refine ⟨isOpen_set_pi Set.finite_univ fun a _ ↦ (Classical.choose_spec (h a)).1, ?_⟩
+  ext y
+  simp only [Set.mem_preimage, Set.mem_pi, Set.mem_univ, forall_const, Set.mem_singleton_iff]
+  constructor
+  · intro hy
+    ext t
+    have hy := hy t
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
    specialize hy t
```
That's usually the way this is written in mathlib.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 14]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+  constructor
+  · intro incl
+    simpa [← Set.mem_preimage, Ueq] using incl
+  · intro eq
+    simp [eq, ← Set.mem_preimage, Ueq]
+
+theorem XdiscreteY_if_XdiscreteHomeoY {X Y Y' : Type*} [TopologicalSpace Y] [TopologicalSpace Y']
+    (f : X → Y) (h : Y ≃ₜ Y') : (∀ x : X, ∃ U' : Set Y', IsOpen U' ∧ (h ∘ f)⁻¹' U' = {x}) →
+    (∀ x : X, ∃ U : Set Y, IsOpen U ∧  f⁻¹' U = {x}) := by
+  intro H x
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: Again you can remove this and move the hypotheses left of the colon in the statement. Basically no proofs in mathlib begin `intro` for this reason.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 15]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+  obtain ⟨U, Uopen, Ueq⟩ := H x
+  use h.symm '' U
+  refine ⟨(Homeomorph.isOpen_image h.symm).mpr Uopen, ?_⟩
+  ext y
+  simp only [Set.mem_preimage, Set.mem_image, Set.mem_singleton_iff]
+  constructor
+  · intro ⟨t, ⟨ht1, ht2⟩⟩
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
  · intro ⟨t, ht1, ht2⟩
```
Pointy brackets are already right-associative.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 16]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+    suffices y ∈  ⇑h ∘ f ⁻¹' U by
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
    suffices y ∈ ⇑h ∘ f ⁻¹' U by
```

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 17]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+      simpa [Ueq] using this
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
      simpa [Ueq]
```
`this` is inbuilt if it's missing :-)

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 18]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+    simpa [← ht2] using ht1
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
    simpa [← ht2]
```
So is `assumption` :-)

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 19]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+  · intro eq
+    use h (f x)
+    constructor
+    · have : f ⁻¹' (⇑h ⁻¹' U) = ⇑h ∘ f ⁻¹' U := by
+        rfl
+      simp [← Set.mem_preimage, this, Ueq]
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
    · simp [← Set.mem_preimage, ← Set.preimage_comp, Ueq]
```
It might be `rfl` but it still has a name, for reasons like this.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 20]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+    · simpa using congrArg f (id (Eq.symm eq))
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
    · simp [eq]
```

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 21]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+
+theorem XdiscreteY_iff_XdiscreteHomeoY {X Y Y' : Type*} [TopologicalSpace Y]
+    [TopologicalSpace Y'] (f : X → Y) (h : Y ≃ₜ Y') :
+    (∀ x : X, ∃ U : Set Y, IsOpen U ∧  f⁻¹' U = {x}) ↔
+    (∀ x : X, ∃ U' : Set Y', IsOpen U' ∧ (h ∘ f)⁻¹' U' = {x}) :=
+  ⟨XdiscreteHomeoY_if_XdiscreteY f h, XdiscreteY_if_XdiscreteHomeoY f h⟩
+
+theorem HomoXdiscreteY_if_XdiscreteY {X X' Y : Type*} [TopologicalSpace Y] (f : X → Y)
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: These names are all terrible by the way. There should never be a variable name in a theorem name (so no `X` or `Y`), there is no `_if_` in the naming convention (are you thinking of `_of_`? `A_of_B` is the name for `B => A`) etc etc. There are things in the naming convention like `congr` which should probably be used, but I am not an expert in the naming convention myself unfortunately. Furthermore none of this discrete stuff should be in a file about division algebras, this should all move to its own file in `FLT/Mathlib` really. I've asked here [#Is there code for X? > Discrete subset of a topological space @ 💬](https://leanprover.zulipchat.com/#narrow/channel/217875-Is-there-code-for-X.3F/topic/Discrete.20subset.20of.20a.20topological.20space/near/537482036) to see if we have a better way of saying `∀ x : X, ∃ U : Set Y, IsOpen U ∧  f⁻¹' U = {x}`. Right now if we want to get on with things my instinct is just to move all the general topology theorems to a new file called `HomToDiscrete.lean` or something and put it all in there, and don't worry too much about the names.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 22]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+
+omit [MeasurableSpace (D ⊗[K] AdeleRing (𝓞 K) K)] [BorelSpace (D ⊗[K] AdeleRing (𝓞 K) K)] in
+theorem D_discrete_extracted (U : Set (Fin (Module.finrank K D) → AdeleRing (𝓞 K) K)) :
+    incl_Kn_𝔸Kn K D ⁻¹' U  = (D_iso K D) ''
+    (⇑(D𝔸_iso_top K D) ∘ (Algebra.TensorProduct.includeLeft : D →ₐ[K] D_𝔸) ⁻¹' U) := by
+  ext x
+  constructor
+  · intro hx
+    use (D_iso K D).symm x
+    unfold D𝔸_iso_top D𝔸_iso D_iso
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: (and in other places) -- you don't need this -- that's exactly the point of an `abbrev`. You can just delete the line. `abbrev` means "print it the way the user wants but internally don't do anything"

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 23]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+
+/-- The additive subgroup with carrier defined by Algebra.TensorProduct.includeLeft. -/
+local instance includeLeft_subgroup : AddSubgroup D_𝔸 := by
+  exact AddMonoidHom.range (G := D) (Algebra.TensorProduct.includeLeft : D →ₐ[K] D_𝔸)
+
+local instance : DiscreteTopology (includeLeft_subgroup K D).carrier := by
+  rw [includeLeft_subgroup]
+  apply (singletons_open_iff_discrete).mp
+  intro a
+  obtain ⟨a, a', ha⟩ := a
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
  rintro ⟨a, a', ha⟩
```

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 24]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+  obtain ⟨U, hUopen, hUeq⟩ := (D_discrete K D) a'
+  refine isOpen_mk.mpr ⟨U, hUopen, Set.image_val_inj.mp ?_⟩
+  simp only [Subtype.image_preimage_coe, Set.image_singleton]
+  ext d
+  constructor
+  · intro hd
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: Use `rintro` here too

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 25]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+    obtain ⟨hd1, hd2⟩ := hd
+    apply Set.mem_range.mp at hd1
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]: This is definitional so you don't need it if you're about to deconsrtuct `hd1` anyway.

File: FLT/DivisionAlgebra/Finiteness.lean [hunk 26]
```diff
@@ -118,19 +119,217 @@ lemma X_meets_kernel' {β : D_𝔸ˣ} (hβ : β ∈ ringHaarChar_ker D_𝔸) :
...
+    refine Set.mem_singleton_of_eq ?_
+    rw [← hc] at hd2
+    apply Set.mem_preimage.mpr at hd2
+    simp only [AddMonoidHom.coe_coe, hUeq, Set.mem_singleton_iff] at hd2
+    simp_rw [← hc, hd2, ha]
+  · intro hd
+    constructor
+    · refine Set.mem_range.mpr ⟨a', ?_⟩
+      rw [hd]
+      exact ha
```
Comment (kbuzzard) [inline FLT/DivisionAlgebra/Finiteness.lean]:
```suggestion
      rwa [hd]
```

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 22 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: Ah, that makes sense. I guess when I am normally trying to work with it I want to unfold so I can remember what I have - but its good to know that afterwards I can remove the unfold

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 21 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: Not including variable names makes sense, that is good to know. I'll move everything to its own file and have a think about new names, it will serve as practice for naming conventions.

File: FLT/DivisionAlgebra/Finiteness.lean (hunk 26 above)
Comment (WilliamCoram) [reply FLT/DivisionAlgebra/Finiteness.lean]: this is a good tactic to know, not sure how I have missed this up to now.
